US08071592B2
(f) 4-Chloro-2-[(E)-2-phenylethenyl]-6H-pyrimido[5,4-b][1,4]oxazin-7(8H)-one
To a solution of ethyl ({4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}oxy)acetate (0.55 g, 1.65 mmol) in DMF (5 mL) was added solid K2CO3 (0.46 g, 3.3 mmol) and the resulting mixture was heated at 75° C. for 1 h. The solvent was evaporated under reduced pressure and the residue was extracted with 10% methanol in DCM (3×100 ml). The organic extracts were combined, dried over anhydrous MgSO4, filtered and evaporated under reduced pressure to give a solid which was purified by column chromatography (silica gel) with a 0-10% methanol in DCM gradient to give the desired product as a solid (0.47 g, 99%).

reactant | ethyl ({4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}oxy)acetate | 1.65 mmol, 0.55 g | NC1=NC(=NC(=C1OCC(=O)OCC)Cl)\C=C\C1=CC=CC=C1 | C16H16ClN3O3
reactant | K2CO3 | 3.3 mmol, 0.46 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-[(E)-2-phenylethenyl]-6H-pyrimido[5,4-b][1,4]oxazin-7(8H)-one | 0.47 g, 99% | ClC1=NC(=NC2=C1OCC(N2)=O)\C=C\C2=CC=CC=C2 | C14H10ClN3O2
